* test Inductor and Capacitor models with sin voltage
R1 N001 N002 1k
V1 N001 0 SINE(0 10 1k)
L1 N002 0 100m
C1 N002 0 1µ
.tran 0 5m 0 1u
.backanno
.end
